US08476269B2
Intermediate B1: Carbamimidoyl-nitroso-acetic acid ethyl ester
To a solution of 2M ammonia in Ethanol (152 ml, 0.304 mmol) at 0° C. to 5° C., ethyl ethoxycarbonylacetimidate HCl (25 g, 0.127 mmol) was added over 30 minutes. The reaction was stirred vigorously at this temperature for 3 hours, after which a solution of sodium nitrite in water (9.63 g, 0.139 mmol) was added in a single portion. The pH of the mixture was adjusted to pH6 with the addition of 5N HCl. The reaction mixture was left to stir at RT overnight. The yellow precipitate formed was filtered under vacuum, washed with water and dried to give the title compound;

reactant | ammonia | 2M | N | H3N
reactant | Ethanol | 0.304 mmol, 152 ml | C(C)O | C2H6O
reactant | ethyl ethoxycarbonylacetimidate HCl | 0.127 mmol, 25 g | Cl.C(C)OC(=O)CC(OCC)=N
reactant | sodium nitrite | N(=O)[O-].[Na+]
reactant | water | 0.139 mmol, 9.63 g | O | H2O
reactant | HCl | 5N | Cl | ClH
product | Carbamimidoyl-nitroso-acetic acid ethyl ester | C(C)OC(C(N=O)C(N)=N)=O | C5H9N3O3
